US06878728B1
4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenyl 4-nitrophenyl Carbonate
To a solution of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate (0.5 g, 0.84 mmol) in dichloromethane (4 mL) at 0° C. was added pyridine (0.16 mL, 0.158 g, 2.0 mmol) and 4-nitrophenyl chloroformate (0.22 g, 1.09 mmol) and the mixture was stirred at ambient temperature for 1 h. Dichloromethane was added and the mixture was washed with 15% citric acid/water (2×), saturated sodium bicarbonate/water, dried (sodium sulfate), evaporated, and purified by chromatography (silica gel, dichloromethane/methanol, 49:1) to provide the title compound as a solid foam (0.5 g, 79% yield). 1H NMR (DMSO-d6): δ 0.78 (3H, d), 0.82 (3H, d), 1.16 (1H, dd), 1.3-1.4 (1H, m), 1.9-2.0 (1H, m), 2.42 (1H, t), 2.65-2.80 (3H, m), 3.0 (2H, dd), 3.3-3.4 (1H, m), 3.5-3.6 (4H, m), 3.7 (1H, t), 3.8 (1H, dd), 4.8 (1H, dt), 5.1 (1H, d), 5.5 (1H, d), 6.18 (2H, s), 7.05 (1H, d), 7.2-7.4 (7H, m), 7.7 (2H, d), 8.35 (2H, d)

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | 0.84 mmol, 0.5 g | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
reactant | pyridine | 2.0 mmol, 0.16 mL, 0.158 g | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 1.09 mmol, 0.22 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenyl 4-nitrophenyl Carbonate | C(OC1=CC=C(C=C1)C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C1=CC2=C(OCO2)C=C1)O)NC(=O)O[C@H]1CO[C@H]2OCC[C@H]21)(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C35H39N3O14S
